US07871998B2
N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-hydroxy-2-(4-methoxyphenyl)ethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-D-lysine
A mixture of N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-methoxyphenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine (0.0177 g, 0.032 mmol tert-butyl N6-(tert-butoxycarbonyl)-D-lysinate hydrochloride (0.0141 g, 0.042 mmol), N-methylmorpholin (0.0106 ml, 0.096 mmol) in DCM (2 ml) was stirred at room temperature. TBTU (0.013 g, 0.042 mmol) was added and the mixture was stirred for 2 h. Additional tert-butyl N6-(tert-butoxycarbonyl)-D-lysinate hydrochloride (0.004 g, 0.012 mmol) was added and after 0.5 h. TBTU (0.008 g, 0.025 mmol) was added and the mixture was stirred for additional 10 minutes. Trifluoroacetic acid (0.65 ml) was added and after 3 h the solvent was removed under reduced pressure. The residue was purified by preparative HPLC on a Kromasil C8-column using a gradient of 5-100% MeCN in 0.15% 1M ammonium acetate buffer as eluent. After removing the solvents under reduced pressure, the intermediate (M/z 681.4) was dissolved in methanol (3 ml). NaBH4 (0.008 g, 0.211 mmol) was added and when the reaction was complete a few drops of acetic acid was added. The solvent was removed under reduced pressure and the residue was purified by preparative HPLC on a Kromasil C8-column using 35% MeCN in 0.1M ammonium acetate buffer as eluent. After freeze-drying, 0.020 g (91%) of the title product was obtained. NMR (500 MHz, CD3COOD) 1.41-1.52 (m, 2H), 1.58-1.78 (m, 3H), 1.90-2.02 (m 1H), 2.86-3.08 (m, 4H), 3.76 (s, 1.5H), 3.77 (s, 1.5), 3.90-4.06 (m, 3H), 4.48 (dd, 1H), 4.60-4.62 (m, 2H), 4.73-4.78 (m, 1H), 4.83-4.89 (m, 1H), 6.80-6.84 (m, 2H), 6.98-7.08 (m, 4H), 7.21-7.31 (m, 4H), 7.31-7.36 (m, 2H), 8.20 (d, NH), 8.54 (t, NH).

reactant | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-methoxyphenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)OC)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C28H25FN2O7S
reactant | tert-butyl N6-(tert-butoxycarbonyl)-D-lysinate hydrochloride | 0.032 mmol, 0.0177 g | Cl.C(C)(C)(C)OC(=O)NCCCC[C@@H](N)C(=O)OC(C)(C)C
reactant | N-methylmorpholin | 0.096 mmol, 0.0106 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.042 mmol, 0.013 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | tert-butyl N6-(tert-butoxycarbonyl)-D-lysinate hydrochloride | 0.012 mmol, 0.004 g | Cl.C(C)(C)(C)OC(=O)NCCCC[C@@H](N)C(=O)OC(C)(C)C
reactant | TBTU | 0.025 mmol, 0.008 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | Trifluoroacetic acid | 0.65 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaBH4 | 0.211 mmol, 0.008 g | [BH4-].[Na+]
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-hydroxy-2-(4-methoxyphenyl)ethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-D-lysine | 0.020 g, 91% | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(C1=CC=C(C=C1)OC)O)C1=CC=C(OCC(=O)NCC(=O)N[C@H](CCCCN)C(=O)O)C=C1 | C34H39FN4O8S
